US08470209B2
The Tergitol-mesylate was synthesized as depicted in Reaction Scheme 3 and FIG. 1. In step S1, 4.86 g (48 mmol) of triethylamine (Aldrich) was added to a solution of Tergitol®NP-9 (16 mmol, Aldrich) in anhydrous methylene chloride (20 ml) in a reactor. The mixture was stirred under a nitrogen atmosphere for 10 minutes.

reactant | triethylamine | 48 mmol, 4.86 g | C(C)N(CC)CC | C6H15N
reactant | Tergitol | CCCCC(CC)CCC(CC(C)C)OS(=O)(=O)[O-].[Na+]
reactant | NP-9 | 16 mmol | CCCCCCCCCC1=CC=C(C=C1)OCCO | C17H28O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Tergitol mesylate | CCCCC(CC)CCC(CC(C)C)OS(=O)(=O)[O-].[Na+].S(C)(=O)(=O)[O-] | InChI=1S/C14H30O4S.CH4O3S.Na/c1-5-7-8-13(6-2)9-10-14(11-12(3)4)18-19(15,16)17;1-5(2,3)4;/h12-14H,5-11H2,1-4H3,(H,15,16,17);1H3,(H,2,3,4);/q;;+1/p-2
